US04831026
(4,5-cis-Diphenyl-2-oxo-3-oxazolidinyl)acetyl chloride
A suspension composed of (4,5-cis-diphenyl-2-oxo-3-oxazolidinyl)acetic acid (29.1 g, 97.9 mmol), oxalyl chloride (18.6 g, 147 mmol) and benzene (120 ml) was refluxed for 2 hours. When the suspension became homogeneous, the solvent was distilled off. By the above procedure there was obtained the title compound (30.9 g) as light brown oil.

reactant | (4,5-cis-diphenyl-2-oxo-3-oxazolidinyl)acetic acid | 97.9 mmol, 29.1 g | C1(=CC=CC=C1)[C@@H]1N(C(O[C@@H]1C1=CC=CC=C1)=O)CC(=O)O | C17H15NO4
reactant | oxalyl chloride | 147 mmol, 18.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | (4,5-cis-Diphenyl-2-oxo-3-oxazolidinyl)acetyl chloride | 30.9 g | C1(=CC=CC=C1)[C@@H]1N(C(O[C@@H]1C1=CC=CC=C1)=O)CC(=O)Cl | C17H14ClNO3
